US07566699B2
To a solution of 2,3-dihydro-4-methoxybenzo[b]-thiophen-3-one (Ref. Chandrani, Mukherjee.; Sukanta, Kamila.; Asish, De. Tetrahedron 2003, 59, 4767-4774) (0.25 g) and triethylamine (0.73 mL) in dichloromethane (5 mL) was added trifluoromethanesulfonic acid anhydride (0.28 mL) under ice-cooling, and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate =9/1) to give 3-trifluoromethanesulfonyloxy-4-methoxybenzo[b]thiophene (0.37 g). This material was dissolved in triethylamine (4 mL). To the solution were added (trimethylsilyl)acetylene (0.34 mL), tetrakis(triphenylphosphine)palladium (0) (0.14 g) and copper (I) iodide (45 mg), and the mixture was heated for reflux under an argon atmosphere for 12 hours. The reaction mixture was cooled to room temperature and diluted with diethyl ether, and the insoluble material was removed by filtration. The filtrate was washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=20/1) to give 4-methoxy-3-(2-trimethylsilylethynyl)benzo[b]thiophene (0.3 g). This material was dissolved in tetrahydrofuran (5 mL). To the solution was added tetra(n-butyl)ammonium fluoride (0.34 g), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=15/1) to give the title compound (0.2 g).

reactant | 2,3-dihydro-4-methoxybenzo[b]-thiophen-3-one | 0.25 g | COC1=CC=CC=2SCC(C21)=O | C9H8O2S
reactant | triethylamine | 0.73 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 0.28 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-trifluoromethanesulfonyloxy-4-methoxybenzo[b]thiophene | 0.37 g | FC(S(=O)(=O)OC=1C2=C(SC1)C=CC=C2OC)(F)F | C10H7F3O4S2
